US07851473B2
(1) 1-(4-Aminophenyl)pyrrolidin-2-one
A mixture of 1-(4-nitrophenyl)pyrrolidin-2-one (1.00 g, 4.85 mmol), 10% palladium on carbon (100 mg), methanol (20 ml) and tetrahydrofuran (20 ml) was stirred under hydrogen atmosphere for 12 hours, insoluble substances were removed by filtration, and the filtrate was concentrated to give 790 mg (92.5%) of the desired product as an oil.

reactant | 1-(4-nitrophenyl)pyrrolidin-2-one | 4.85 mmol, 1.00 g | [N+](=O)([O-])C1=CC=C(C=C1)N1C(CCC1)=O | C10H10N2O3
reactant | methanol | 20 ml | CO | CH4O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(4-Aminophenyl)pyrrolidin-2-one | 790 mg, 92.5% | NC1=CC=C(C=C1)N1C(CCC1)=O | C10H12N2O
